US05869500
14.22 g (67 mmol) of 4-benzyloxybenzaldehyde and 5.31 g (80.4 mmol) of malonodinitrile were suspended in 80 ml of isopropanol in the presence of 0.2 ml of piperidine. In so doing the mixture increased in temperature from 19° to 31° C. A solution resulted, from which a solid was finally obtained. This was filtered off after stirring for 30 min. There were obtained 10.3 g (59%) of 2-(4-benzyloxy-benzylidene)-malononitrile with m.p. 146°-148° C.

reactant | 4-benzyloxybenzaldehyde | 67 mmol, 14.22 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | malonodinitrile | 80.4 mmol, 5.31 g | C(C#N)C#N | C3H2N2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | 2-(4-benzyloxy-benzylidene)-malononitrile | 10.3 g, 59% | C(C1=CC=CC=C1)OC1=CC=C(C=C(C#N)C#N)C=C1 | C17H12N2O
